US07345068B2
Diethylazodicarboxylate (197 μ1, 1.25 mmol) was added dropwise to a solution of N-t-butoxycarbonyl-3,5-diiodo-L-tyrosine methyl ester (274 mg, 0.5 mmol), 3-bromo-1-propanol (76 mg, 0.55 mmol) and triphenylphosphine (328 mg, 1.25 mmol) in tetrahydrofuran (5 ml) under argon atmosphere at −15° C. and the mixture was stirred at the same temperature for 0.5 hrs., at 0-5° C. for 0.5 hrs., and then at room temperature for 23 hrs. The solvent of the reaction mixture was distilled off at room temperature under reduced pressure. The residue was purified by column chromatography on silica gel (n-hexane/ethyl acetate=9) to give O-(3-bromopropyl)-N-t-butoxycarbonyl-3,5-diiodo-L-tyrosine methyl ester (145 mg, 43%) as colorless crystals.

reactant | Diethylazodicarboxylate | 1.25 mmol | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
reactant | N-t-butoxycarbonyl-3,5-diiodo-L-tyrosine methyl ester | 0.5 mmol, 274 mg | COC([C@@H](NC(=O)OC(C)(C)C)CC1=CC(=C(C(=C1)I)O)I)=O | C15H19I2NO5
reactant | 3-bromo-1-propanol | 0.55 mmol, 76 mg | BrCCCO | C3H7BrO
reactant | triphenylphosphine | 1.25 mmol, 328 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | O-(3-bromopropyl)-N-t-butoxycarbonyl-3,5-diiodo-L-tyrosine methyl ester | 145 mg, 43% | COC([C@@H](NC(=O)OC(C)(C)C)CC1=CC(=C(C(=C1)I)OCCCBr)I)=O | C18H24BrI2NO5
